US07723538B2
4-[4-Chloro-3-(2,5-dimethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=489.2 (M−H), was prepared in analogy to example 21, steps A to D. Step C was performed using 2,5-dimethoxy-benzenesulfonyl chloride and yielded 4-[4-chloro-3-(2,5-dimethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[4-Chloro-3-(2,5-dimethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid | ClC1=C(C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1)NS(=O)(=O)C1=C(C=CC(=C1)OC)OC | C22H19ClN2O7S
reactant | 2,5-dimethoxy-benzenesulfonyl chloride | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 4-[4-chloro-3-(2,5-dimethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)NS(=O)(=O)C1=C(C=CC(=C1)OC)OC)=O)=O | C24H23ClN2O7S
